US08236998B2
A solution of 357 mg of 2,3,9,10-tetra(n-propyl)-6,13-pentacenequinone dissolved in 50 mL of THF was added to 11 mL of a 1 mol/1000 mL THF solution of lithium triethylborohydride, and the mixture was heated for 24 hours under reflux in a nitrogen atmosphere. The resulting solution was neutralized with diluted aqueous hydrochloric acid, and the organic phase was separated, concentrated and dried under a vacuum to produce 6,13-dihydro-6,13-dihydroxy-2,3,9,10-tetra(n-propyl)penta cene almost stoichiometrically.

reactant | 2,3,9,10-tetra(n-propyl)-6,13-pentacenequinone | 357 mg | C(CC)C1=CC2=CC=3C(C4=CC5=CC(=C(C=C5C=C4C(C3C=C2C=C1CCC)=O)CCC)CCC)=O | C34H36O2
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
product | 6,13-dihydro-6,13-dihydroxy-2,3,9,10-tetra(n-propyl)penta cene | OC1C=2C=C3C=C(C(=CC3=CC2C(C2=CC3=CC(=C(C=C3C=C12)CCC)CCC)O)CCC)CCC | C34H40O2
